US07456169B2
4-(4-chloro-2-methoxybenzyl)morpholine
A mixture of 1-bromomethyl-4-chloro-2-methoxy-benzene (705 mg), morpholine (0.52 mL, 6 mmol) in toluene (15 mL) was heated to 110° C. for 2 hours. The solution was then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (MgSO4), filtered, and concentrated under vacuum to provide 675 mg (93%) of the title compound. MS (ESI) m/e 242 (M+H)+.

reactant | 1-bromomethyl-4-chloro-2-methoxy-benzene | 705 mg | BrCC1=C(C=C(C=C1)Cl)OC | C8H8BrClO
reactant | morpholine | 6 mmol, 0.52 mL | N1CCOCC1 | C4H9NO
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-chloro-2-methoxybenzyl)morpholine | 675 mg, 93% | ClC1=CC(=C(CN2CCOCC2)C=C1)OC | C12H16ClNO2
